Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / aspirin / seafood / Percocet / cats
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
tPA via EKOS catheter x 2 (___)

 
History of Present Illness:
Ms. ___ is a ___ year-old patient with a history of 
retroperitoneal lipoma and abnormal uterine bleeding who is 
transferred from an OSH due to massive pulmonary embolism. 

Of note, Ms. ___ has been having prolonged and profuse uterine 
bleeding for which she was started on norethindrone by her 
gynecologist. One day prior to admission she developed left leg 
swelling and pain which she did not make of too much. The day of 
admission she developed sudden-onset dyspnea, palpitations and 
she later lost consciousness only to regain it when EMS arrived. 


She was taken to ___ where she had a CTA 
Chest showing bilateral PEs and was started on a heparin gtt. In 
the ED she underwent a second syncopal event after going to the 
bathroom. On the day of transfer an echocardiogram was done 
showing severe RV dilation and hypokinesis sparing the apex 
leading to transfer to ___ for higher level of care. 

On arrival to the MICU,  she had no additional complaints.

 
Past Medical History:
Seasonal allergies                                              
Retroperitoneal fatty mass                                      
H/o anemia 
C-section                                                       
Umbilical hernia s/p repair 
 
Social History:
___
Family History:
Mother: ___   
Father: ___ cancer   
MGM: Hypertension 
 
Physical Exam:
Admission Physical Exam
=======================
Vitals: Please see Metavision
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP 2cm above clavicle at 45 degrees, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, loud S2, no murmurs, rubs, gallops  

ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused. L>R diameter of calves. Non-tender 
calves.
NEURO: AOx3, grossly non-focal

Discharge Physical Exam
=======================
Vitals: T 98.6, BP 115/65, HR 81, RR 18, SpO2 100/RA
General: Alert, oriented, no acute distress, lying comfortably. 
Tearful talking about her kids and wanting to get home to them.
HEENT: Sclera anicteric, MMM, oropharynx clear. Bandage over R 
lower neck is clean and dry.
Lungs: Faint bibasilar crackles  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, trace edema in L leg up 
into shin. No edema on R side. No erythema or increased warmth.  

Skin: Without rashes or lesions - R neck bandaged from IJ line 
as above 
Neuro: moving all extremities  
 
Pertinent Results:
Admission labs
==============
___ 02:37PM BLOOD WBC-8.2# RBC-3.94 Hgb-9.3* Hct-31.1* 
MCV-79*# MCH-23.6*# MCHC-29.9* RDW-17.8* RDWSD-50.8* Plt ___
___ 02:37PM BLOOD Neuts-62.9 ___ Monos-10.3 
Eos-0.2* Baso-0.4 Im ___ AbsNeut-5.13 AbsLymp-2.12 
AbsMono-0.84* AbsEos-0.02* AbsBaso-0.03
___ 05:34PM BLOOD ___ PTT-49.9* ___
___ 02:37PM BLOOD Glucose-82 UreaN-8 Creat-0.6 Na-140 K-3.4 
Cl-114* HCO3-16* AnGap-13
___ 02:37PM BLOOD ALT-9 AST-18 LD(LDH)-285* AlkPhos-61 
TotBili-0.6
___ 02:37PM BLOOD cTropnT-0.03* proBNP-1552*
___ 02:37PM BLOOD Albumin-3.0* Calcium-6.8* Phos-2.2* 
Mg-1.7
___ 02:49PM BLOOD Lactate-1.6

Discharge labs
==============
___ 08:55AM BLOOD WBC-6.2 RBC-3.81* Hgb-9.1* Hct-29.2* 
MCV-77* MCH-23.9* MCHC-31.2* RDW-19.8* RDWSD-51.6* Plt ___
___ 08:55AM BLOOD Plt ___
___ 11:25AM BLOOD PTT-60.5*
___ 08:55AM BLOOD ___ PTT-66.9* ___
___ 08:55AM BLOOD Glucose-83 UreaN-8 Creat-0.7 Na-141 K-3.7 
Cl-106 HCO3-24 AnGap-15
___ 08:55AM BLOOD Calcium-8.6 Phos-4.0 Mg-2.1

Imaging
___ Pelvic US  
1. Fibroid uterus, distorting the endometrium. 
2. Blood in the endocervical canal. 
3. Normal ovaries.  No free fluid. 

___ EKOS placement
RECOMMENDATION(S):  1. Infusion of 1.0 mg tPA through each the 
EKOS 
catheter. 
2. Monitor fibrinogen and H&H at least Q6 
3. Reassessment of patient in  12  hours status post catheter 
directed 
chemical thrombectomy with EKOS 

___ TTE
The left atrium is normal in size. Left ventricular wall 
thickness, cavity size, and global systolic function are normal 
(LVEF>55%). The right ventricular cavity is mildly dilated with 
mild global free wall hypokinesis. The aortic valve leaflets (3) 
appear structurally normal with good leaflet excursion and no 
aortic stenosis. The mitral valve leaflets are structurally 
normal. There is borderline pulmonary artery systolic 
hypertension. There is no pericardial effusion. 
IMPRESSION: Suboptimal image quality. Mild right ventricular 
cavity dilation with free wall hypokinesis. Borderline pulmonary 
artery systolic hypertension. Normal left ventricular cavity 
size and global systolic function.  

___ Pulmonary arteriogram
Significant decrease in pulmonary embolic volume with 
significant improvement 
of peripheral pulmonary arterial flow 
RECOMMENDATION(S):  Continue anticoagulation. 
 
Brief Hospital Course:
Ms. ___ is a ___ year-old patient with a history of 
retroperitoneal lipoma and abnormal uterine bleeding who is 
transferred from an OSH due to massive pulmonary embolism. 

#Massive Pulmonary Embolism: Pt was transferred from outside 
hospital, where a CTA chest showed pulmonary embolism. Given 
syncope x2 prior to admission, echocardiographic signs of RV 
failure, elevated proBNP (1552) and troponin T (0.03), this PE 
is classified as massive. Initially, patient was hemodynamically 
stable at rest with labile hemodynamics on minimal exertion. Pt 
received tPA via EKOS catheter x 2 on ___ for directed lysis 
of clot. Pt is now hemodynamically stable. Pt on heparin gtt 
during admission; warfarin initiated on ___ (received 5mg). 
NOACs were considered, but due to insurance issues and patient 
preference, warfarin was chosen. INR on discharge of 1.1; pt 
will go home with lovenox for bridging until therapeutic on 
warfarin.

#Abnormal uterine bleeding: Has been ongoing for year but 
slightly worse recently, for which she was started on 
norethindrone. Pelvic ultrasound showed fibroid uterus with 
blood in endocervical canal, normal ovaries, no free air. Gyn 
saw patient, recommended hysterectomy. Pt not interested in 
hysterectomy at this time, will f/u with gyn as an outpatient. 
Bleeding is minimal at this time, and remained stable on heparin 
gtt and with tPA.

#Anemia: stable throughout admission. H/H of 9.1 and 29.2 on 
discharge.

TRANSITIONAL ISSUES:
#ABNORMAL UTERINE BLEEDING: will follow-up at ___ resident 
___ for gynecology 
#HYPERCOAGULABILITY: should get hypercoagulability work-up as 
outpatient. Mother also has history of PE.
#ANTICOAGULATION: initiated on warfarin on ___ will be on 
lovenox at home to bridge onto warfarin therapy. Will need close 
follow-up of coagulation studies. INR should be checked on 
___. Dr ___ manage her 
Coumadin.bility work up as outpatient
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. norethindrone acetate 5 mg oral BID 

 
Discharge Medications:
1.  Enoxaparin Sodium 80 mg SC BID 
Start: ___, First Dose: Next Routine Administration Time 
RX *enoxaparin 80 mg/0.8 mL 80 mg SQ twice a day Disp #*60 
Syringe Refills:*0 
2.  Warfarin 5 mg PO DAILY16 
RX *warfarin [Coumadin] 2.5 mg Two tablet(s) by mouth Once a day 
Disp #*30 Tablet Refills:*0 
3.  norethindrone acetate 5 mg oral BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES:
 - Massive pulmonary embolism
 - Abnormal uterine bleeding

SECONDARY DIAGNOSES:
 - Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___,

You were admitted to ___ from 
___ to ___ for a massive pulmonary embolism (blood clot 
in your lungs).

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
=============================================
 - You had an ultrasound of your heart, which showed that your 
heart was being affected by the pulmonary embolism.
 - You were seen by our gynecologists, who thought your uterine 
bleeding was stable and that you were okay to receive blood 
thinners for your blood clot.
 - You had a pelvic ultrasound, which showed fibroids in your 
uterus, which is likely the cause of your bleeding.
 - You had catheters put into your neck that reached the spot in 
your lungs where the blood clot was. A medicine called tPA was 
put into the catheters that helped to break up the clot.
 - You were on an IV drip of heparin (blood thinner).
 - You were started on warfarin (Coumadin), which is a blood 
thinner pill that you will continue to take once you leave the 
hospital.

WHAT WILL HAPPEN WHEN YOU LEAVE THE HOSPITAL?
=============================================
 - You will continue to take warfarin as prescribed. It is very 
important that you take this every day to prevent your blood 
clot from getting worse.
 - You will have to inject yourself with enoxaparin (Lovenox) at 
home until you determine with your primary care doctor that your 
warfarin dose is appropriate. It is VERY important that you take 
this every day to prevent your blood clot from getting worse, 
until your primary care doctor tells you it is okay to stop.
 - You should got to Dr. ___ office on ___ to get your 
INR level drawn. 
 - You will see Dr ___ care doctor) for routine 
follow-up once you leave the hospital.
 - You will see one of our cardiologists (who helped to take 
care of your blood clot in the hospital) in the office for 
follow-up of your blood clot.
 - You will see a gynecologist in our clinic here for follow-up 
of your bleeding and fibroids.

If you have any further questions regarding your care here, 
please do not hesitate to contact us. We wish you the ___ with 
your health going forward.

Your ___ Care Team
 
Followup Instructions:
___